US05243010
5-Tripenylsilyl-m-xylene ("TPSIX")
In the same manner as described in preparation 1, 5-bromo-m-xylene was allowed to react with chlorotriphenylsilane, and afforded TPSIX. The yield and properties are summarized in Table 1.

reactant | 5-bromo-m-xylene | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | chlorotriphenylsilane | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15ClSi
product | 5-Tripenylsilyl-m-xylene | C1(=CC=CC=C1)[Si](C=1C=C(C=C(C1)C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24Si
